* D:\facultad\Circuitos electronicos\CircuitosElectronicos\TL4\simulaciones\CircuitoCompleto.asc
J1 N001 Vin N010 J201
R1 Vin 0 1Meg
R2 N010 0 2.7k
R3 VC2 N001 6k8
V1 VC2 0 9
V2 Vin 0 SINE(0 10m 10k) AC 100m
C1 N002 N001 6.8n
C3 0 N008 10n
R4 0 N002 22k
R5 N008 N001 47k
XU1 N002 N008 N005 pot_lin Rtot=50K wiper={X}
Q1 VC2 VB2 VE2 0 Qtip41c
Q2 VC2 VB1 VB2 0 BC548B
R6 VE2 0 8.2
R7 VB1 0 10k
R8 VC2 VB1 6.8k
Q3 VC3 VB3 VE3 0 BC548B
R9 VC2 VB3 220k
R10 VB3 0 68k
R11 Vout 0 8
C4 VE2 Vout 2.2m
C5 VB1 VC3 100µ
R12 VC2 VC3 1.8k
Q4 VBEfuente VBEfuente 0 0 BC548B
R13 VC2 VBEfuente 3.3k
R14 VC2 VG 1Meg
R15 VG 0 4.7Meg
R16 VC2 VC4 1k
C6 VG N005 100µ
Q5 VE3 VBEfuente 0 0 BC548B
C7 VE3 N006 100µ
R17 N006 0 100
C8 N004 VB3 100µ
M1 VC4 VG VS VS 2N7000
R18 VS N009 1k
C9 N009 0 100µ
C10 VC4 N003 100µ
Q6 N004 N003 VE4 0 BC548B
C11 VE4 N007 100µ
R19 N007 0 100
R20 VC2 N003 220k
R21 N003 0 68k
R22 VC2 N004 2.2k
Q7 VE4 VBEfuente 0 0 BC548B
R23 N009 0 1k
.model NPN NPN
.model PNP PNP
.lib C:\PROGRA~2\LTC\LTSPIC~1\lib\cmp\standard.bjt
.model NJF NJF
.model PJF PJF
.lib C:\PROGRA~2\LTC\LTSPIC~1\lib\cmp\standard.jft
.model NMOS NMOS
.model PMOS PMOS
.lib C:\PROGRA~2\LTC\LTSPIC~1\lib\cmp\standard.mos
.MODEL J201 NJF (VTO=-0.8 BETA=0.94M LAMBDA=2M IS=114.5F RD=1 RS=1
+ CGD=4.667P CGS=2.992P M=.2271 PB=.5 FC=.5 VTOTC=-2.5M BETATCE=-.5
+ KF=604.2E-18)
.op
.include potentiometer_standard.lib
.step param X list 0 0.25 0.5 0.75 1
.MODEL Qtip41c npn
+IS=7.55826e-11 BF=260.542 NF=1.11221 VAF=100
+IKF=0.526814 ISE=1e-08 NE=2.18072 BR=26.0542
+NR=1.5 VAR=1000 IKR=3.54059 ISC=1e-08
+NC=1.63849 RB=4.56157 IRB=0.1 RBM=0.1
+RE=0.0162111 RC=0.0810556 XTB=0.1 XTI=1
+EG=1.206 CJE=1.93296e-10 VJE=0.4 MJE=0.259503
+TF=1e-08 XTF=4.06972 VTF=7.1157 ITF=0.001
+CJC=1.09657e-10 VJC=0.730921 MJC=0.23 XCJC=0.803085
+FC=0.8 CJS=0 VJS=0.75 MJS=0.5
+TR=9.01013e-08 PTF=0 KF=0 AF=1
* Model generated on Dec 27, 2003
* Model format: PSpice
.model BC548B   NPN(Is=7.049f Xti=3 Eg=1.11 Vaf=62.79 Bf=374.6 Ise=68f Ne=1.576
+               Ikf=81.57m Nk=.4767 Xtb=1.5 Br=1 Isc=12.4f Nc=1.835 Ikr=3.924
+               Rc=.9747 Cjc=5.25p Mjc=.3147 Vjc=.5697 Fc=.5 Cje=11.5p
+               Mje=.6715 Vje=.5 Tr=10n Tf=410.2p Itf=1.491 Xtf=40.06 Vtf=10)
*                               PHILIPS                         pid=bc546b      case=TO92
*                               91-07-31 dsq
.MODEL 2N7000 NMOS LEVEL=1 IS=1e-32
+VTO=2.236 LAMBDA=0 KP=0.0932174
+CGSO=1.79115e-07 CGDO=1.0724e-11
.tran 0 20m 19.8m
;ac dec 1000 1 22k
.backanno
.end
