*--------------------- The Linear Potentiometer ---------------------
*      
* 1.0 <----- 0.0
*        |3
*      __V__
*  1--|_____|--2
*        
*  o--R1-o-R2--o
*
.SUBCKT potentiometer 1 2 3
* Parameters: Rtot, wiper
.param w=limit(0.01m,wiper,0.99999)
*
R1 1 3 {Rtot*(1-w)}
R2 3 2 {Rtot*(w)}
.ENDS
*
 
.SUBCKT pot_lin 1 2 3
.param w=limit(0.01m,wiper,0.99999)
*
R1 1 3 {Rtot*(1-w)}
R2 3 2 {Rtot*(w)}
.ENDS